US05536725
This compound is prepared in a manner analogous to that of Step D of Example 2, using 20.3 grams (0.050 mole) of phenylmethyl [(1,4-dioxaspiro-[4.5]decan-8-yl)(3-trifluoromethylphenyl)]methyl ether and 35 mL of water in 125 mL of acetic acid, yielding phenylmethyl [(cyclohexanon-4-yl)(3-trifluoromethylphenyl)]methyl ether.

reactant | phenylmethyl [(1,4-dioxaspiro-[4.5]decan-8-yl)(3-trifluoromethylphenyl)]methyl ether | 0.050 mole, 20.3 grams | O1CCOC12CCC(CC2)C2=C(C=CC=C2C(F)(F)F)COCC2=CC=CC=C2 | C23H25F3O3
reactant | water | 35 mL | O | H2O
solvent | acetic acid | 125 mL | C(C)(=O)O | C2H4O2
product | phenylmethyl [(cyclohexanon-4-yl)(3-trifluoromethylphenyl)]methyl ether | C1(CCC(CC1)C1=C(C=CC=C1C(F)(F)F)COCC1=CC=CC=C1)=O | C21H21F3O2
